US20010008893A1
1-(2-Methyl-4-hydroxynaphthoxy)-3-[4-(2,4-dimethoxyphenyl)-1-piperazinyl] propan-2-ol dihydrochloride
Using 2.8 g (0.01 mol) of 4-benzoyloxy-2-methylnaphthol, 1.4 g (0.01 mol) of anhydrous potassium carbonate, 4.6 g (0.05 mol) of chloromethyloxirane, 2.9 g (0.01 mol) of 1-(2,4-dimethoxyphenyl)piperazine dihydrochloride and 2.0 g (0.02 mol) of triethylamine, reaction was carried out as in Examples 2 and 4 to give 0.7 g of crystals, m.p. 175-177°C. (decomp.).

reactant | 4-benzoyloxy-2-methylnaphthol | 0.01 mol, 2.8 g | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C2=CC=CC=C12)O)C | C18H14O3
reactant | potassium carbonate | 0.01 mol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyloxirane | 0.05 mol, 4.6 g | ClCC1OC1 | C3H5ClO
reactant | 1-(2,4-dimethoxyphenyl)piperazine dihydrochloride | 0.01 mol, 2.9 g | Cl.Cl.COC1=C(C=CC(=C1)OC)N1CCNCC1
reactant | triethylamine | 0.02 mol, 2.0 g | C(C)N(CC)CC | C6H15N
product | 1-(2-Methyl-4-hydroxynaphthoxy)-3-[4-(2,4-dimethoxyphenyl)-1-piperazinyl] propan-2-ol dihydrochloride | 0.7 g | Cl.Cl.CC1=C(C2=CC=CC=C2C(=C1)O)OCC(CN1CCN(CC1)C1=C(C=C(C=C1)OC)OC)O | InChI=1S/C26H32N2O5.2ClH/c1-18-14-24(30)21-6-4-5-7-22(21)26(18)33-17-19(29)16-27-10-12-28(13-11-27)23-9-8-20(31-2)15-25(23)32-3;;/h4-9,14-15,19,29-30H,10-13,16-17H2,1-3H3;2*1H
